US04195036
By reaction of the N-(3,3-dichloroallyl)amine with the dichloroacetyl chloride, as in Example 1, there was obtained N-(3,3-dichloroallyl)dichloroacetamide.

reactant | N-(3,3-dichloroallyl)amine | ClC(=CCN)Cl | C3H5Cl2N
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
product | N-(3,3-dichloroallyl)dichloroacetamide | ClC(=CCNC(C(Cl)Cl)=O)Cl | C5H5Cl4NO
